2161-03-14 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - had an additional episode of dyspnea a short while ago; so far, for
   this, she has been given 40 mg IV lasix x 2, 2 mg IV morphine x 2; she
   was also ordered for a stat CXR
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2161-3-14**] 05:10 AM
   Furosemide (Lasix) - [**2161-3-14**] 05:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt reports that her shortness of breath had improved compared to
   earlier this morning.
   Flowsheet Data as of  [**2161-3-14**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 101 (59 - 101) bpm
   BP: 140/75(90) {66/39(45) - 140/75(90)} mmHg
   RR: 24 (13 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    781 mL
                                                                    100 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    201 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    440 mL
   Urine:
                                                                    475 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -874 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   GENERAL: 85 y/o F in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NC/AT.
   NECK: Supple. No significant JVD noted.
   CARDIAC: RRR, [**3-7**] crescendao-decrescendo systolic murmur heard
   throughout, loudest at the heart base. No r/g. No S3 or S4
   appreciated.
   LUNGS: Resp distress improved from earlier this morning. Rhonchi and
   scattered wheeze throughout.
   ABDOMEN: Soft, NTND. No HSM or tenderness. BS present.
   EXTREMITIES: No significant LE edema noted.
   Labs / Radiology
   206 K/uL
   12.0
   106 mg/dL
   1.2 mg/dL
   30 mEq/L
   4.5
   26 mg/dL
   101 mEq/L
   142 mEq/L
   38.1
   11.5
        [image002.jpg]
                             [**2161-3-13**]  09:15 PM
   WBC
   8.0
   Hct
   32.5
   Plt
   160
   Cr
   1.2
   TropT
   0.10
   Glucose
   106
   Other labs: CK / CKMB / Troponin-T:67//0.06, Ca++:8.5 mg/dL, Mg++:2.3
   mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   85 year-old female with PMHx of aortic stenosis s/p balloon
   valvuloplasty yesterday, who was transferred from the [**Hospital1 1896**] service this
   evening for flash pulmonary edema.
   .
   # Dyspnea: Likely related to fluid overload/HF in the setting of aortic
   stenosis. The patient
s respiratory status improved with IV Lasix last
   night; however, she then developed hypotension and required some fluid
   resuscitation. She had another episode of dyspnea this morning, for
   which she was given additional IV Lasix boluses.
   - continue diuresis with a slow Lasix gtt to prevent hypotension
   - continue to monitor fluid status
   - continue to monitor fever and WBC curves to look for any signs of PNA
   - ipratropium nebs PRN
   - restarting metoprolol this morning; continue to hold other
   antihypertensives
   .
   # Hypotension: Likely related to overdiuresis, as above. Improved with
   IV fluids.
   - slow Lasix gtt for diuresis, as above
   - restarting metoprolol, holding other antihypertensives at this point
   (amlodipine, lisinopril, isosorbide)
   .
   # CAD s/p Multiple Stents in the Past: Pt's current symptoms not likely
   related to ischemia, as she did have a clean cath on [**2161-3-9**]. However,
   she did complain of some chest discomfort during her recent episode.
   Ruled out for ACS with three sets of CE
   - continue ROMI as above
   - Continue ASA, plavix, and crestor
   - restarting beta blocker this morning
   .
   # S/p Aortic Valvuloplasty: The patient is status post balloon
   valvuloplasty yesterday.
   - continue to monitor volume status
   - conitnue routing care of cath site
   - appreciate any interventional cardiology input
   .
   #UTI: Per [**Hospital1 **] notes, pt completed course of cipro and now has clean
   urine cx.
   .
   # HYPERTENSION:
   - anithypertensives as above
   .
   # OSTEOPOROSIS: Per [**Hospital1 1896**] notes, the pateint has been complaining of
   back pain, which was felt to be related to her previous vertebral
   fracture in the setting of lying on her back for days.
   - Continue vitamin D
   - Continue gabapentin
   - restarting hydrocodone
   - appreciate PT recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-13**] 08:32 PM
   20 Gauge - [**2161-3-13**] 08:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2161-03-15 04:00:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -started metoprolol
   -started Lasix gtt
   -patient delirious, felt to be related to ambien; discontinued ambien
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2161-3-14**] 05:10 AM
   Furosemide (Lasix) - [**2161-3-14**] 05:21 AM
   Heparin Sodium (Prophylaxis) - [**2161-3-14**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-15**] 03:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 81 (62 - 101) bpm
   BP: 101/72(80) {90/39(53) - 140/79(90)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    765 mL
                                                                      1 mL
   PO:
                                                                    710 mL
             TF:
   IVF:
                                                                     55 mL
                                                                      1 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    100 mL
   Urine:
                                                                  1,940 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,175 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   GENERAL: 85 y/o F in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NC/AT.
   NECK: Supple. No significant JVD noted.
   CARDIAC: RRR, [**3-7**] crescendao-decrescendo systolic murmur heard
   throughout, loudest at the heart base. No r/g. No S3 or S4
   appreciated.
   LUNGS: Resp distress improved from earlier this morning. Rhonchi and
   scattered wheeze throughout.
   ABDOMEN: Soft, NTND. No HSM or tenderness. BS present.
   EXTREMITIES: No significant LE edema noted.
   Labs / Radiology
   206 K/uL
   12.0 g/dL
   101 mg/dL
   1.1 mg/dL
   29 mEq/L
    3.9 mEq/L-------------- 20 meQ KCL po
   30 mg/dL
   100 mEq/L
   140 mEq/L
   38.1 %
   11.5 K/uL
        [image002.jpg]
                             [**2161-3-13**]  09:15 PM
                             [**2161-3-14**]  05:26 AM
                             [**2161-3-14**]  03:47 PM
                             [**2161-3-14**]  06:00 PM
   WBC
   8.0
   11.5
   Hct
   32.5
   38.1
   Plt
   160
   206
   Cr
   1.2
   1.2
   1.2
   1.1
   TropT
   0.10
   0.06
   Glucose
   106
   106
   89
   101
   Other labs: PT / PTT / INR:12.5/40.1/1.1, CK / CKMB /
   Troponin-T:67//0.06, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   85 year-old female with PMHx of aortic stenosis s/p balloon
   valvuloplasty, transferred from the [**Hospital1 1896**] service to CCU for flash
   pulmonary edema.
   .
   # Dyspnea: Likely related to fluid overload/HF in the setting of aortic
   stenosis. The patient
s respiratory status improved with IV Lasix last
   night; however, she then developed hypotension and required some fluid
   resuscitation. She had another episode of dyspnea this morning, for
   which she was given additional IV Lasix boluses.
   - continue diuresis with a slow Lasix gtt to prevent hypotension
   - continue to monitor fluid status
   - continue to monitor fever and WBC curves to look for any signs of PNA
   - ipratropium nebs PRN
   - restarting metoprolol this morning; continue to hold other
   antihypertensives
   .
   # Hypotension: Likely related to overdiuresis, as above. Improved with
   IV fluids.
   - slow Lasix gtt for diuresis, as above
   - restarting metoprolol, holding other antihypertensives at this point
   (amlodipine, lisinopril, isosorbide)
   .
   # CAD s/p Multiple Stents in the Past: Pt's current symptoms not likely
   related to ischemia, as she did have a clean cath on [**2161-3-9**]. However,
   she did complain of some chest discomfort during her recent episode.
   Ruled out for ACS with three sets of CE
   - continue ROMI as above
   - Continue ASA, plavix, and crestor
   - restarting beta blocker this morning
   .
   # S/p Aortic Valvuloplasty: The patient is status post balloon
   valvuloplasty yesterday.
   - continue to monitor volume status
   - conitnue routing care of cath site
   - appreciate any interventional cardiology input
   .
   #UTI: Per [**Hospital1 **] notes, pt completed course of cipro and now has clean
   urine cx.
   .
   # HYPERTENSION:
   - anithypertensives as above
   .
   # OSTEOPOROSIS: Per [**Hospital1 1896**] notes, the pateint has been complaining of
   back pain, which was felt to be related to her previous vertebral
   fracture in the setting of lying on her back for days.
   - Continue vitamin D
   - Continue gabapentin
   - restarting hydrocodone
   - appreciate PT recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-13**] 08:32 PM
   20 Gauge - [**2161-3-13**] 08:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2161-03-16 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight Events:
   - was negative 800cc by midday. Stopped lasix gtt, but UOP trended
   down, bilateral crackles - restarted lasix gtt 8pm.
   - held metoprolol.
   - 3pm lytes wnl
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-3-15**] 08:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-16**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 55 (55 - 74) bpm
   BP: 90/70(76) {84/38(51) - 116/79(82)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                    671 mL
                                                                     50 mL
   PO:
                                                                    620 mL
                                                                     50 mL
   TF:
   IVF:
                                                                     51 mL
   Blood products:
   Total out:
                                                                  1,671 mL
                                                                    170 mL
   Urine:
                                                                  1,671 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,001 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///34/
   Physical Examination
   GENERAL: NAD.
   HEENT: NC/AT.
   NECK: Supple. No significant JVD noted.
   CARDIAC: RRR, [**3-7**] crescendo-decrescendo systolic murmur heard
   throughout, loudest at the heart base. Additional holosystolic murmur
   at apex.
   LUNGS: Decreased breath sounds and crackles at bases bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No significant LE edema noted.
   NEURO: Alert, oriented to self, year, and
[**Hospital1 **]
 but not hospital.
   CN II-XII intact. Moves all extremities.
   Labs / Radiology
   164 K/uL
   11.0 g/dL
   88 mg/dL
   1.0 mg/dL
   34 mEq/L
   4.6 mEq/L
   35 mg/dL
   101 mEq/L
   143 mEq/L
   34.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2161-3-13**]  09:15 PM
                             [**2161-3-14**]  05:26 AM
                             [**2161-3-14**]  03:47 PM
                             [**2161-3-14**]  06:00 PM
                             [**2161-3-15**]  04:47 AM
                             [**2161-3-15**]  05:35 PM
   WBC
   8.0
   11.5
   5.4
   Hct
   32.5
   38.1
   34.0
   Plt
   160
   206
   164
   Cr
   1.2
   1.2
   1.2
   1.1
   1.1
   1.0
   TropT
   0.10
   0.06
   Glucose
   106
   106
   89
   101
   102
   88
   Other labs: PT / PTT / INR:12.5/40.1/1.1, CK / CKMB /
   Troponin-T:67//0.06, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   85 year-old female with PMHx of aortic stenosis s/p balloon
   valvuloplasty, transferred from the [**Hospital1 1896**] service to CCU for flash
   pulmonary edema.
   .
   # Dyspnea: Likely related to fluid overload/HF in the setting of aortic
   stenosis. The patient has a perisistent O2 requirement of 6L/min. She
   has desaturated to the mid 80s with self-d/c of oxygen in the setting
   of delirium. Lasix gtt on.
   - continue diuresis with a slow Lasix gtt to prevent hypotension
   - continue to monitor fluid status
   .
   # Hypotension: Likely related to diuresis in setting of severe aortic
   stenosis.
   - slow Lasix gtt for diuresis, as above
   - holding amlodipine, lisinopril, isosorbide at this point
   - restarted metprolol to prevent tachycardia/hypertension and
   subsequent pulmonary edema
   .
   # CAD s/p Multiple Stents in the Past: Pt's current symptoms not likely
   related to ischemia, as she had a clean cath on [**2161-3-9**]. However, she
   did complain of some chest discomfort during her recent episode. Ruled
   out for ACS with three sets of CE
s. Had slight troponin bump (peak
   0.10) in setting of flash pulmonary edema, unlikely to be related to
   coronary occlusion.
   - Continue ASA, plavix, metoprolol and crestor
   .
   # Aortic stenosis s/p valvuloplasty: The patient is status post balloon
   valvuloplasty.  Possible candidate for percutaneous valve replacement
   in future.
   - monitor volume status
   - routine care of cath site
   - appreciate any interventional cardiology input
   .
   # UTI: Per [**Hospital1 **] notes, pt completed course of cipro and now has clean
   urine cx.
   .
   # OSTEOPOROSIS: Per [**Hospital1 1896**] notes, the pateint has been complaining of
   back pain, which was felt to be related to her previous vertebral
   fracture in the setting of lying on her back for days.
   - Continue vitamin D
   - Continue gabapentin
   - continue hydrocodone
   - appreciate PT recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-13**] 08:32 PM
   20 Gauge - [**2161-3-13**] 08:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2161-03-17 07:06:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - CXR: Interstitial edema has resolved in the interval. Bibasilar
   retrocardiac opacities are present, improved in the interval,
   particularly on the left. New linearly oriented opacity in the lingula
   is suggestive of atelectasis. Bilateral effusions have resolved.
   - sent sputum cx
   - restarted metoprolol -> ultimately decreased dose and loosened
   holding parameters
   - started PO lasix, but pt did not put out much to that -> gave a one
   time dose of torsemide
   - decreased heparin SC [**2-3**] increased PTT
   - gave trazodone
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-3-16**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-17**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 60 (55 - 72) bpm
   BP: 108/51(64) {86/20(43) - 111/84(88)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49.2 kg (admission): 47.6 kg
   Height: 61 Inch
                  Total In:
                                                                    770 mL
                  PO:
                                                                    770 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    695 mL
                                                                  1,175 mL
   Urine:
                                                                    695 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     75 mL
                                                                 -1,175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: NAD.
   HEENT: NC/AT.
   CARDIAC: RRR. Normal s1. Single s2 heart only at LUSB. [**2-7**]
   late-peaking, crescendo-decrescendo systolic murmur loudest at RUSB.
   [**3-7**] HSM at apex.
   LUNGS: Mild crackles at bases.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No significant LE edema noted. Right groin cath site
   C/D/I. Extremities warm and well-perfused.
   NEURO: Alert, oriented x3 (although can state
hospital
 but not which
   one)
   Labs / Radiology
   164 K/uL
   10.7 g/dL
   95 mg/dL
   1.0 mg/dL
   35 mEq/L
   4.0 mEq/L
   32 mg/dL
   102 mEq/L
   143 mEq/L
   32.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2161-3-13**]  09:15 PM
                             [**2161-3-14**]  05:26 AM
                             [**2161-3-14**]  03:47 PM
                             [**2161-3-14**]  06:00 PM
                             [**2161-3-15**]  04:47 AM
                             [**2161-3-15**]  05:35 PM
                             [**2161-3-16**]  05:55 AM
                             [**2161-3-17**]  05:35 AM
   WBC
   8.0
   11.5
   5.4
   4.7
   4.7
   Hct
   32.5
   38.1
   34.0
   32.1
   32.9
   Plt
   160
   206
   164
   146
   164
   Cr
   1.2
   1.2
   1.2
   1.1
   1.1
   1.0
   1.0
   TropT
   0.10
   0.06
   Glucose
   106
   106
   89
   101
   102
   88
   95
   Other labs: PT / PTT / INR:12.3/118.8/1.0, CK / CKMB /
   Troponin-T:67//0.06, Differential-Neuts:51.6 %, Lymph:35.7 %, Mono:7.9
   %, Eos:4.3 %, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   85 year-old female with PMHx of aortic stenosis s/p balloon
   valvuloplasty, transferred from the [**Hospital1 1896**] service to CCU for flash
   pulmonary edema.
   .
   # Dyspnea: Likely related to fluid overload/HF in the setting of aortic
   stenosis/mitral regurgitation. The patient has a perisistent O2
   requirement. She has desaturated to the mid 80s with self-d/c of oxygen
   in the setting of delirium. Lasix gtt off.
   - diurese with torsemide 10 mg as tolerated by blood pressure
   - continue to monitor fluid status
   .
   # Hypotension: Likely related to diuresis in setting of severe aortic
   stenosis.
   - slow diuresis, as above, to prevent hypotension
   - holding amlodipine, lisinopril, isosorbide at this point
   - restarted metprolol to prevent tachycardia/hypertension and
   subsequent pulmonary edema
   .
   # CAD s/p multiple stents in the Past: Pt's current symptoms not likely
   related to ischemia, as she had a clean cath on [**2161-3-9**]. However, she
   did complain of some chest discomfort during her recent episode. Ruled
   out for ACS with three sets of CE
s. Had slight troponin bump (peak
   0.10) in setting of flash pulmonary edema, unlikely to be related to
   coronary occlusion.
   - Continue ASA, plavix, metoprolol and crestor
   .
   # Aortic stenosis s/p valvuloplasty: The patient is status post balloon
   valvuloplasty.  Possible candidate for percutaneous valve replacement
   in future.
   - monitor volume status
   - routine care of cath site
   - appreciate any interventional cardiology input
   .
   # UTI: Per [**Hospital1 **] notes, pt completed course of cipro and now has clean
   urine cx.
   .
   # OSTEOPOROSIS: Per [**Hospital1 1896**] notes, the pateint has been complaining of
   back pain, which was felt to be related to her previous vertebral
   fracture in the setting of lying on her back for days.
   - Continue vitamin D
   - Continue gabapentin
   - continue hydrocodone
   - appreciate PT recs
   ICU Care
   Nutrition: low-sodium diet with 1200 cc fluid restriction
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-13**] 08:32 PM
   20 Gauge - [**2161-3-13**] 08:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin, decreasing to [**Hospital1 7**] in the setting of increased PTT
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2161-03-18 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - SBP has been in 90s, so torsemide was held
   - d/c'ed Foley
   - called out to floor, no bed available
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-3-17**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no CP, no cough, no SOB.
   Flowsheet Data as of  [**2161-3-18**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 96 (56 - 96) bpm
   BP: 97/47(58) {78/30(45) - 115/60(68)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49.2 kg (admission): 47.6 kg
   Height: 61 Inch
                  Total In:
                                                                  1,000 mL
                  PO:
                                                                  1,000 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                     50 mL
   Urine:
                                                                  1,645 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -645 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ////
   Physical Examination
   GENERAL: A0X3.
   CARDIAC: RRR.: soft c-d SEM at RUSB, and [**3-7**] holosystolic murmur heard
   best at apex, radiates to axilla
   LUNGS: Crackles 1/3 up, no wheezes, rales, ronchi. On 3L desats to 80s
   with wean
   ABDOMEN: Soft, NTND. No HSM or tenderness, large eccymoses at site Hep
   SC
   EXTREMITIES: No peripheral edema, Right groin cath site C/D/I.
   Extremities warm and well-perfused
   Labs / Radiology
   CXR [**2161-3-16**]
   CXR: Interstitial edema has resolved in the interval. Bibasilar
   retrocardiac opacities are present, improved in the interval,
   particularly on the left. New linearly oriented opacity in the lingula
   is suggestive of atelectasis. Bilateral effusions have resolved.
   164 K/uL
   10.7 g/dL
   86 mg/dL
   0.9 mg/dL
   38 mEq/L
   3.7 mEq/L
   31 mg/dL
   98 mEq/L
   145 mEq/L
   32.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2161-3-13**]  09:15 PM
                             [**2161-3-14**]  05:26 AM
                             [**2161-3-14**]  03:47 PM
                             [**2161-3-14**]  06:00 PM
                             [**2161-3-15**]  04:47 AM
                             [**2161-3-15**]  05:35 PM
                             [**2161-3-16**]  05:55 AM
                             [**2161-3-17**]  05:35 AM
   WBC
   8.0
   11.5
   5.4
   4.7
   4.7
   Hct
   32.5
   38.1
   34.0
   32.1
   32.9
   Plt
   160
   206
   164
   146
   164
   Cr
   1.2
   1.2
   1.2
   1.1
   1.1
   1.0
   1.0
   0.9
   TropT
   0.10
   0.06
   Glucose
   106
   106
   89
   101
   102
   88
   95
   86
   Other labs: PT / PTT / INR:12.0/30.1/1.0, CK / CKMB /
   Troponin-T:67//0.06, Differential-Neuts:51.6 %, Lymph:35.7 %, Mono:7.9
   %, Eos:4.3 %, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 COUGH
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 AORTIC STENOSIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   Assessment and Plan
   85 year-old female with PMHx of multiple MI with PCI to 3V, aortic
   stenosis s/p balloon valvuloplasty, transferred from the [**Hospital1 1896**] service
   to CCU for flash pulmonary edema.
   .
   # Dyspnea: Likely related to fluid overload/HF in the setting of aortic
   stenosis/mitral regurgitation. The patient has a perisistent O2
   requirement but is also on home 02 at bedtime,. Has some component of
   CHF on lung exam, but is partly just sensitive to fluid shifts due to
   AS. also some atelectasis.  She has desaturated to the mid 80s with
   self-d/c of oxygen in the setting of delirium. Diuresed 645cc without
   diuretic. Torsemide held y/d [**2-3**] hypotension. BP
s in low 100
s, good
   UOP.
   -attempt diurese with torsemide 10 mg as tolerated by blood pressure
   - continue to monitor fluid status
   -continue IS
   # Hypotension: Likely related to diuresis in setting of severe aortic
   stenosis.
   - slow diuresis, as above, to prevent hypotension
   - holding amlodipine, lisinopril, isosorbide at this point
   - restarted metprolol to prevent tachycardia/hypertension and
   subsequent pulmonary edema
   .
   # CAD s/p multiple stents in the Past: Pt's current symptoms not likely
   related to ischemia, as she had a clean cath on [**2161-3-9**]. However, she
   did complain of some chest discomfort during her recent episode. Ruled
   out for ACS with three sets of CE
s. Had slight troponin bump (peak
   0.10) in setting of flash pulmonary edema, unlikely to be related to
   coronary occlusion.
   - Continue ASA, plavix, metoprolol and crestor
   .
   # Aortic stenosis s/p valvuloplasty: The patient is status post balloon
   valvuloplasty.  Possible candidate for percutaneous valve replacement
   in future.
   - monitor volume status
   - routine care of cath site
   - appreciate any interventional cardiology input
   .
   # UTI: Per [**Hospital1 **] notes, pt completed course of cipro and now has clean
   urine cx.
   .
   # OSTEOPOROSIS: Per [**Hospital1 1896**] notes, the pateint has been complaining of
   back pain, which was felt to be related to her previous vertebral
   fracture in the setting of lying on her back for days.
   - Continue vitamin D
   - Continue gabapentin
   - continue hydrocodone
   - appreciate PT recs
   ICU Care
   Nutrition: low-sodium diet with 1200 cc fluid restriction
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-13**] 08:32 PM
   20 Gauge - [**2161-3-13**] 08:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin, decreasing to [**Hospital1 7**] in the setting of increased PTT
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-3-17**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-03-18 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - gave 500 cc NS x 2
   - EKG showed sinus rhythm
   - renal recs: continue fluids; follow-up fat pad biopsy; may need renal
   biopsy; check LFTs
   - gave 500 cc NS x 2 again after midnight for low UOP; did not respond
   to bolus
   - sent urine lytes, U/A (will take a while for patient to make enough
   urine)
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-3-17**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-18**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 77 (56 - 96) bpm
   BP: 107/58(70) {78/30(45) - 115/60(70)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49.2 kg (admission): 47.6 kg
   Height: 61 Inch
                  Total In:
                                                                  1,000 mL
                  PO:
                                                                  1,000 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                     50 mL
   Urine:
                                                                  1,645 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -645 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   164 K/uL
   10.7 g/dL
   86 mg/dL
   0.9 mg/dL
   38 mEq/L
   3.7 mEq/L
   31 mg/dL
   98 mEq/L
   145 mEq/L
   32.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2161-3-13**]  09:15 PM
                             [**2161-3-14**]  05:26 AM
                             [**2161-3-14**]  03:47 PM
                             [**2161-3-14**]  06:00 PM
                             [**2161-3-15**]  04:47 AM
                             [**2161-3-15**]  05:35 PM
                             [**2161-3-16**]  05:55 AM
                             [**2161-3-17**]  05:35 AM
   WBC
   8.0
   11.5
   5.4
   4.7
   4.7
   Hct
   32.5
   38.1
   34.0
   32.1
   32.9
   Plt
   160
   206
   164
   146
   164
   Cr
   1.2
   1.2
   1.2
   1.1
   1.1
   1.0
   1.0
   0.9
   TropT
   0.10
   0.06
   Glucose
   106
   106
   89
   101
   102
   88
   95
   86
   Other labs: PT / PTT / INR:12.0/30.1/1.0, CK / CKMB /
   Troponin-T:67//0.06, Differential-Neuts:51.6 %, Lymph:35.7 %, Mono:7.9
   %, Eos:4.3 %, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 COUGH
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 AORTIC STENOSIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-3-17**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-03-19 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight Events:
   - blood pressure stable high 90s to low 100s/50s
   - allowed to autodiuresis (no Lasix given)
   - patient OOB to chair without symptoms, overall doing better
   - called out to floor
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-3-18**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-19**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 60 (57 - 82) bpm
   BP: 84/40(50) {80/35(48) - 112/53(66)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.4 kg (admission): 47.6 kg
   Height: 61 Inch
                  Total In:
                                                                    600 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    965 mL
                                                                     80 mL
   Urine:
                                                                    965 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -365 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   GENERAL: A0X3.
   CARDIAC: RRR.: soft c-d SEM at RUSB, and [**3-7**] holosystolic murmur heard
   best at apex, radiates to axilla
   LUNGS: Crackles 1/3 up, no wheezes, rales, ronchi. On 3L desats to 80s
   with wean
   ABDOMEN: Soft, NTND. No HSM or tenderness, large eccymoses at site Hep
   SC
   EXTREMITIES: No peripheral edema, Right groin cath site C/D/I.
   Extremities warm and well-perfused
   Labs / Radiology
   201 K/uL
   10.4 g/dL
   95 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.4 mEq/L
   35 mg/dL
   101 mEq/L
   143 mEq/L
   32.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2161-3-13**]  09:15 PM
                             [**2161-3-14**]  05:26 AM
                             [**2161-3-14**]  03:47 PM
                             [**2161-3-14**]  06:00 PM
                             [**2161-3-15**]  04:47 AM
                             [**2161-3-15**]  05:35 PM
                             [**2161-3-16**]  05:55 AM
                             [**2161-3-17**]  05:35 AM
                             [**2161-3-18**]  06:23 AM
   WBC
   8.0
   11.5
   5.4
   4.7
   4.7
   6.3
   Hct
   32.5
   38.1
   34.0
   32.1
   32.9
   32.3
   Plt
   160
   206
   164
   146
   164
   201
   Cr
   1.2
   1.2
   1.2
   1.1
   1.1
   1.0
   1.0
   0.9
   0.9
   TropT
   0.10
   0.06
   Glucose
   106
   106
   89
   101
   102
   88
   95
   86
   95
   Other labs: PT / PTT / INR:12.2/38.8/1.0, CK / CKMB /
   Troponin-T:67//0.06, Differential-Neuts:51.6 %, Lymph:35.7 %, Mono:7.9
   %, Eos:4.3 %, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   85 year-old female with PMHx of multiple MI with PCI to 3V, aortic
   stenosis s/p balloon valvuloplasty, transferred from the [**Hospital1 1896**] service
   to CCU for flash pulmonary edema.
   .
   # Dyspnea: Likely related to fluid overload/HF in the setting of aortic
   stenosis/mitral regurgitation. The patient has a perisistent O2
   requirement but is also on home 02 at bedtime,. Has some component of
   CHF on lung exam, but is partly just sensitive to fluid shifts due to
   AS. also some atelectasis.  She has desaturated to the mid 80s with
   self-d/c of oxygen in the setting of delirium. Diuresed 645cc without
   diuretic. Torsemide held y/d [**2-3**] hypotension. BP
s in low 100
s, good
   UOP.
   -attempt diurese with torsemide 10 mg as tolerated by blood pressure
   - continue to monitor fluid status
   -continue IS
   # Hypotension: Likely related to diuresis in setting of severe aortic
   stenosis.
   - slow diuresis, as above, to prevent hypotension
   - holding amlodipine, lisinopril, isosorbide at this point
   - restarted metprolol to prevent tachycardia/hypertension and
   subsequent pulmonary edema
   .
   # CAD s/p multiple stents in the Past: Pt's current symptoms not likely
   related to ischemia, as she had a clean cath on [**2161-3-9**]. However, she
   did complain of some chest discomfort during her recent episode. Ruled
   out for ACS with three sets of CE
s. Had slight troponin bump (peak
   0.10) in setting of flash pulmonary edema, unlikely to be related to
   coronary occlusion.
   - Continue ASA, plavix, metoprolol and crestor
   .
   # Aortic stenosis s/p valvuloplasty: The patient is status post balloon
   valvuloplasty.  Possible candidate for percutaneous valve replacement
   in future.
   - monitor volume status
   - routine care of cath site
   - appreciate any interventional cardiology input
   .
   # UTI: Per [**Hospital1 **] notes, pt completed course of cipro and now has clean
   urine cx.
   .
   # OSTEOPOROSIS: Per [**Hospital1 1896**] notes, the pateint has been complaining of
   back pain, which was felt to be related to her previous vertebral
   fracture in the setting of lying on her back for days.
   - Continue vitamin D
   - Continue gabapentin
   - continue hydrocodone
   - appreciate PT recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-3-17**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor